2147-01-10 01:01:00 Physician Attending Progress Note
Chief Complaint: 80 yr woman with hx of afib, COPD, small cell CA s/p
   resection, diverticulitis with perforation followed by colostomy,
   diastolic dysfunction.
   HPI:
   Admitted today for elective takedown of colostomy and ventral hernia
   repair. Had prolonged anaesthesia with intraoperative hypotension. Poor
   unrine output over 6 hr procedure. Received 3 liters LR, started on Neo
   which was successfully weaned in PACU. Bolused with additional 4 liters
   of LR to maintain BP. Urine output remained poor. Sent to [**Hospital Unit Name 44**] for
   ongoing care, monitoring given her multiple med problems
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2147-1-9**] 08:30 PM
   Metronidazole - [**2147-1-9**] 09:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   amiodarone, lipitor, lasix, synthroid, toprol, coumadin, lovenox bridge
   Changes to medical and family history:
   Diarrhea, nausea this AM otherwise well.
   Pain controlled on a dilaudid PCA
   A fib/flutter controlled with amio/coumadin, AV ablation/pacer for sick
   sinus
   Lung Ca
   Diastolic dysfunction
   Diverticulitis
   HTN
   COPD
   L arm embolism
   Quit smoking 40 yrs ago. No drug use
   Family Hx non-contrib
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Gastrointestinal: Nausea, Diarrhea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**4-19**] Moderate
   Pain location: abdominal
   Flowsheet Data as of  [**2147-1-10**] 12:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 60 (60 - 64) bpm
   BP: 105/44(58) {85/26(39) - 105/44(58)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
          Total In:
                                                                  9,067 mL
                                                                    197 mL
   PO:
          TF:
   IVF:
                                                                  8,650 mL
                                                                     58 mL
   Blood products:
                                                                    417 mL
                                                                    139 mL
   Total out:
                                                                    492 mL
                                                                     84 mL
   Urine:
                                                                     38 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                     80 mL
   Balance:
                                                                  8,575 mL
                                                                    113 mL
   Respiratory support
   SpO2: 100%
   ABG: ////
   Physical Examination
   Alert, Oriented X3
   Lungs clear anteriorly
   Cor
 s1, s2 nl, w/o MRTG
   No edema, cyanosis or clubbing
   Peripheral Vascular: (Right radial pulse: nl), (Left radial pulse: nl),
   (Right DP pulse: nl), (Left DP pulse: nl
   Abdominal: Tender: , Abdom Binder
   Skin:  Not assessed
   Neurologic: Responds to voice, Movement: purposeful, Tone: Normal
   Labs / Radiology
   6.5 g/dL
   169 K/uL
   133
   1.4
   26
   3.3
   23
   103
   139
   22.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2147-1-9**]  08:55 PM
   WBC
   5.7
   Hct
   22.0
   Plt
   169
   Other labs: PT / PTT / INR:19.2/40.8/1.8
   Imaging: CXR- Volume overloaded compared with her pre-op film
   Assessment and Plan
   1) Colostomy Takedown/Hernia Repair - management per surgery
   2) Hypotension - resolved after volume resuscitation, required
   transient levophed - no off
                             - possible blood loss with hct drop which has
   stabilized after 1 unit PRBC, no evidence of ongoing bleeding
                            - following serial Hct with goal of 25-28 per
   surgery
   3) Diastolic CHF - CXR appeared wet after OR but she is sating 100% on
   2 liters and now has very clear lungs on exam.
   4) Oliguria - pre-renal vs ATN (creat stable, however). Should also
   exclude obstructive uropathy with renal ultrasound. Urine electrolytes
   pending.
                      She is on lasix at home - will attempt to increase
   urine output with lasix challenge and consider fluid bolus if she
   doesn't respond
   5) Ancef/Flagyl for post-op prophylaxis
   6) Afib/flutter - holding amio/coumadin/lovenox until we are certain
   Hct is stable. Paced.
   7) COPD - on no meds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2147-1-9**] 08:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2147-01-10 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Repeat Hct was found to be 22 from 33.3, on repeat was 26.7.  INR was
   1.8.  Per surgery was given 1 unit of FFP, 5 mg SQ Vit K, and 1 unit of
   PRBC.  Post transfusion Hct rose to 31.4
   Allergies:
   Digoxin
   Unknown;
   Last dose of Antibiotics:
   Cefazolin - [**2147-1-9**] 08:30 PM
   Metronidazole - [**2147-1-10**] 03:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-1-10**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-1-10**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 61 (60 - 64) bpm
   BP: 109/39(55) {85/26(39) - 109/45(58)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
          Total In:
                                                                  9,067 mL
                                                                  1,187 mL
   PO:
          TF:
   IVF:
                                                                  8,650 mL
                                                                  1,048 mL
   Blood products:
                                                                    417 mL
                                                                    139 mL
   Total out:
                                                                    492 mL
                                                                    209 mL
   Urine:
                                                                     38 mL
                                                                     34 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    175 mL
   Balance:
                                                                  8,575 mL
                                                                    978 mL
   Respiratory support
   SpO2: 98% on 2 L NC
   ABG: 7.31/56/82.[**Numeric Identifier 96**]/22/0
   Physical Examination
   GEN: Well-appearing, well-nourished, elderly female lying in bed in NAD
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   OP Clear
   NECK: No JVD, trachea midline
   COR: RRR, no MRG
   PULM: The patient is breathing comfortably, CTAB
   ABD: Large midline incision with an abdominal binder over her abdomen.
   Her abdomen is soft.  No active bleeding.  2 JP drains with bloody
   fluid present.
   EXT: No C/C/E. 2 + DP
   NEURO: Sleepy, but arousable.  Oriented to person, place, and time.
   Moves all extremities spontaneously.  Grossly nonfocal exam.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   225 K/uL
   9.8 g/dL
   114 mg/dL
   1.5 mg/dL
   22 mEq/L
   4.7 mEq/L
   23 mg/dL
   106 mEq/L
   140 mEq/L
   30.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2147-1-9**]  08:55 PM
                             [**2147-1-10**]  12:40 AM
                             [**2147-1-10**]  01:44 AM
                             [**2147-1-10**]  04:41 AM
   WBC
   5.7
   9.7
   Hct
   22.0
   31.4
   30.7
   Plt
   169
   225
   Cr
   1.5
   TCO2
   30
   Glucose
   114
   Other labs: PT / PTT / INR:15.2/28.8/1.3, Lactic Acid:1.7 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.1 mg/dL
   [1][**2147-1-10**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2147-1-10**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   Assessment and Plan
   80 year-old female with a history of a.fib on coumadin, perforated
   diverticulum s/p sigmoid Hartmann in [**4-21**], diastolic heart failure who
   presented for colostomy takedown and ventral hernia repair complicated
   by hypotension and low UOP postoperatively.
   # Hypotension: The patient was noted to have SBPs of 70's in the OR and
   postoperatively and was supported with neo for a short while.   This
   was weaned off prior to her admission, however her SBPs ran in the high
   80
s to low 100
s overnight, most recently in the low 100s. Her
   outpatient records show that her normal SBP ranges in the 90's to
   100's.  Given concern for a Hct drop postoperatively ( from 37.3 to 26
   and INR of 1.8), she was given 1 unit of FFP, 1 unit of PRBC, and Vit K
   overnight.  Her Hct had an appropriate rise to the blood and has
   remained stable around 30.  She received a total of > 9 L of fluid
   yesterday and continues to sat well on 2 L NC.  She has remained
   afebrile; her UA did show 14 WBC, few back, and [**Last Name (un) **] leuk.  Another
   cause for her lowish BP could have been the dilaudid PCA which was
   being given for pain control.
   - Will check [**Hospital1 **] Hct and monitor JP output.
   - F/u UCx, BCx.
   # S/p colostomy takedown and ventral hernia repair:
   - F/u surgery recs.
   - NPO for now.
   - Ostomy and surgical wound care.
   - Dilaudid PCA for pain control.
   - Cefazolin and flagyl per surgery for postop antibiotic ppx.
   # Oligura: The patient had only made 192 cc of urine in 10 hours intra
   and postoperatively.  She was given 3 L LR during the case and another
   4 L in the PACU.  Cr was 1.4 postoperatively which is within her most
   recent baseline.  Her oliguria may represent ATN given her hypotension
   in the OR.  This am her Cr is stable at 1.5, however her UOP remains
   low with only 34 cc in 6 hours.  She was given a trial of 40 mg IV
   lasix last night without response.  Her FENA is 0.1, however she was on
   lasix as an outpatient making this unreliable.  Her FEUrea is 16.89 %
   which is also consistent with prerenal ARF.
   - Will obtain a renal US this am to rule out postrenal causes such as
   obstruction from her recent surgery as well as obtain dopplers to check
   blood flow to the kidney.
   - Most likely her oligura represents ATN secondary to hypotension in
   the OR.  She has been unresponsive to IVF making prerenal ARF unlikely
   even though her urine electorlytes support a prerenal etiology.
   - Will try another 40 mg IV lasix.
   - Monitor urine output closely.
   # Atrial fibrillation s/p pacemaker placement for tachy-brady
   syndrome:  Patient is currently atrially paced.
   - Metoprolol 5 mg IV q6h while NPO, restart po metoprolol once taking
   POs.
   - Restart amiodarone and coumadin once able to take POs.
   - Holding on the lovenox bridge for now given concern for bleeding; d/w
   surgery when to restart
   # Chronic diastolic heart failure: Patient with an EF of >55%, but with
   diastolic heart failure.  No sign of volume overload, as above is
   likely volume deplete.
   - Patient was given a trial of 40 mg of IV lasix as above, wil given
   another trial this am as above.
   # Hypothyroidism: Levothyroxine 25 mcg IV daily while NPO.  Restart her
   home synthroid dose when taking POs.
   # COPD/OSA: Patient has a history of COPD, but is not on medications as
   an outpatient.  Also has a history of OSA, but refuses to wear CPAP.
   # FEN: NPO for now; IVF as above; replete electrolytes prn
   # Code:  Full code
   ICU Care
   Nutrition: NPO for now per surgery
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-1-9**] 08:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to the [**Hospital Ward Name **] ICU today
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);